US08247341B2
Diisopropylsilanediyl bis(trifluoromethanesulfonate):
An oven-dried 100 mL-RB flask is charged with dichlorodiisopropylsilane (9.2 g, 0.05 mol). Then 15 g of trifluoromethanesulfonic acid (15 g, 0.10 mol) is added dropwise. The mixture is heated at 60° C. until no further HCl evolves. The residue is distilled to yield 12 g (60%) of the product as clear liquid. 1H NMR (500 MHz, CDCl3, in ppm) δ 1.58 (heptet, 2H, J=7.2 Hz), 1.24 (d, 12H, J=7.2 Hz).

reactant | dichlorodiisopropylsilane | 0.05 mol, 9.2 g | Cl[Si](C(C)C)(C(C)C)Cl | C6H14Cl2Si
reactant | trifluoromethanesulfonic acid | 0.10 mol, 15 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | HCl | Cl | ClH
product | Diisopropylsilanediyl bis(trifluoromethanesulfonate) | 12 g, 60% | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F)(F)F | C8H14F6O6S2Si
